US08372607B2
In accordance with the literature (J. Peptide Sci., 2001, 7, 619-625), 10 g of DL-methionine was added to 20 ml of water and 11.5 ml of 6 N NaOH, and dissolved therein. While keeping pH at 10.5 to 11.5, 8.6 ml of benzoyl chloride was added thereto, and the mixture was stirred at room temperature for two hours. The resulting reaction mixture was filtrated and then washed with diethyl ether. Concentrated hydrochloric acid was gradually added to adjust the pH to 1 to precipitate a crystal. The crystal was filtrated, washed with water, and dried under reduced pressure to obtain 16.2 g of N-benzoylmethionine. 24 ml of acetic anhydride was added to 4.9 g of obtained N-benzoylmethionine, the solution was heated at 100° C. for 4 hours, then cooled to room temperature, and the solvent was evaporated. The steps of adding 24 ml of toluene to the residue and evaporating the solvent were repeated twice. The, the residue was dissolved in 2.5 ml of pyridine, 10 ml of 35% formaldehyde solution was added, and the solution was stirred at room temperature for 17 hours. 40 ml of water was added to the resulting reaction solution, which was then extracted with 40 ml of ethyl acetate. The extract was washed with water and saturated brine, and dried on magnesium sulfate. Magnesium sulfate was removed and the solvent was evaporated. The residue was purified by silica gel chromatography (hexane/ethyl acetate 4/1 to 1/1). After evaporating the solvent, 2.56 g of 5-benzoylamino-5-methylthioethyl-4-oxo-1,3-dioxane was obtained. 7.5 ml of 6 N hydrochloric acid was added to 1.06 g of the obtained 5-benzoylamino-5-methylthioethyl-4-oxo-1,3-dioxane, which was then heated and refluxed for 7 hours. The reaction solution was filtrated, and then the solvent was evaporated. 5 ml of water was added to the residue, which was then purified using an ion exchange resin (Amberlite 120). After evaporating the solvent, the resulting crystal was recrystallized from water/ethanol, and dried under reduced pressure to obtain 129 mg of α-methylthioethyl-serine. NMR of this compound was measured, and almost agreed with the values described in the literature.

reactant | acetic anhydride | 24 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-benzoylmethionine | 4.9 g | C(C1=CC=CC=C1)(=O)N[C@@H](CCSC)C(=O)O | C12H15NO3S
product | 5-benzoylamino-5-methylthioethyl-4-oxo-1,3-dioxane | 2.56 g | C(C1=CC=CC=C1)(=O)NC1(C(OCOC1)=O)CCSC | C14H17NO4S
